US09238644B2
(b) 2-(2-(2-(2,5-Dichloropyrimidin-4-yl)ethyl)phenyl)propanamide (A30)
A solution of 2-(2-((2,5-dichloropyrimidin-4-yl)ethynyl)phenyl)propanamide A29 (1.0 g, 3.1 mmol) in DMF (55 mL) and MeOH (5 mL) was stirred with platinum(II)oxide (0.21 g, 0.94 mmol) under an atmosphere of hydrogen for 120 hours at ambient temperature. The reaction mixture was diluted with EtOAc and filtered through a plug of Celite. The filter cake was washed with EtOAc and the solvents were removed in vacuo to give a crude residue that was purified by silica gel column chromatography (Combiflash Rf, 0-90% EtOAc in cyclohexane), giving the title compound A30 as an off white solid (0.65 g, 64%). LCMS-C: rt 4.98 min; m/z 324 [M+H]+.

reactant | 2-(2-((2,5-dichloropyrimidin-4-yl)ethynyl)phenyl)propanamide | ClC1=NC=C(C(=N1)C#CC1=C(C=CC=C1)C(C(=O)N)C)Cl | C15H11Cl2N3O
reactant | MeOH | 5 mL | CO | CH4O
solvent | DMF | 55 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | platinum(II)oxide | 0.94 mmol, 0.21 g | [Pt]=O
product | 2-(2-(2-(2,5-Dichloropyrimidin-4-yl)ethyl)phenyl)propanamide | ClC1=NC=C(C(=N1)CCC1=C(C=CC=C1)C(C(=O)N)C)Cl | C15H15Cl2N3O
